US05532367
This compound is prepared in a manner analogous to that of Step C of Example 9, using 3.1 grams (0.022 mole) of 3-amino-2-cyano-6-ethynylpyridine, 7.4 grams (0.031 mole) of 4-chlorophenyl iodide, 10.7 grams (0.077 mole) of triethylamine, 0.5 gram (catalyst) of bis(triphenylphosphine)palladium(II) chloride, and 0.5 gram (catalyst) of copper iodide in 100 mL of acetonitrile, yielding 3-amino-2-cyano-6-[(4-chlorophenyl)ethynyl]pyridine.

reactant | 3-amino-2-cyano-6-ethynylpyridine | 0.022 mole, 3.1 grams | NC=1C(=NC(=CC1)C#C)C#N | C8H5N3
reactant | 4-chlorophenyl iodide | 0.031 mole, 7.4 grams | ClC1=CC=C(C=C1)I | C6H4ClI
reactant | triethylamine | 0.077 mole, 10.7 grams | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.5 gram | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper iodide | 0.5 gram | [Cu](I)I
product | 3-amino-2-cyano-6-[(4-chlorophenyl)ethynyl]pyridine | NC=1C(=NC(=CC1)C#CC1=CC=C(C=C1)Cl)C#N | C14H8ClN3
